US09303040B2
To a solution of 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine (5 g, 27 mmol) and 2-(S)-methyl-4-Boc-piperazine (5.4 g, 27 mmol) in NMP (20 mL) was added DIEA (5 mL, 29 mmol). The mixture was heated to 120° C. for 24 hours. After cooling, the mixture was diluted with ethyl acetate (500 mL) and washed with water (6×200 mL). The organic phase was dried and concentrated to afford (3S)-tert-butyl 3-methyl-4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate (6 g, 64%). 1H NMR (CDCl3, 400 MHz) δ 8.55 (s, 1H), 4.81 (m, 1H), 4.45 (m, 1H). 4.18 (m, 3H), 3.90 (m, 1H), 3.75 (m, 1H), 3.44-3.29 (m, 2H), 2.96 (m, 1H), 1.52 (m, 12H), 1.14 (d, J=6.4 Hz, 3H). MS (APCI+) [M+H]+ 351. The residue was purified by chiral HPLC separation (OD 250×20 mm; acetonitrile, 2 mL/min). The first peak (RT=3.93 min) was (S)-tert-butyl 3-methyl-4-((R)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate and the secondary (RT=4.26 min) was (S)-tert-butyl 3-methyl-4-((S)-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate.

reactant | 4-chloro-5-methyl-5,7-dihydrothieno[3,4-d]pyrimidine | 27 mmol, 5 g | ClC=1C2=C(N=CN1)CSC2C | C7H7ClN2S
reactant | 2-(S)-methyl-4-Boc-piperazine | 27 mmol, 5.4 g | C[C@@H]1NCCN(C1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIEA | 29 mmol, 5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (3S)-tert-butyl 3-methyl-4-(5-methyl-5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazine-1-carboxylate | 6 g, 64% | C[C@H]1CN(CCN1C=1C2=C(N=CN1)CSC2C)C(=O)OC(C)(C)C | C17H26N4O2S
